US03966773
Preparation of 3-triphenylmethoxy-1-octyne
A mixture of 1.26 g. (10.0 mmoles) of 1-octyn-3-ol, 4.85 g, (15.0 mmoles) of triphenylmethyl bromide, and 50 ml. of dry pyridine is heated at 95°C. for 60 minutes with occasional swirling. The solution is cooled, treated with water, and extracted with ether. The extract is washed successively with water and saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. The crude product is purified by chromatography on Florisil and rectystallization from petroleum ether to give white crystals, m.p. 65°-66.5°, μ max. (KBr) 3280 (acetylenic hydrogen), 1605, 1030, and 702 cm-1 (triphenylmethoxy group).

reactant | 1-octyn-3-ol | 10.0 mmoles | C#CC(CCCCC)O | C8H14O
reactant | triphenylmethyl bromide | 15.0 mmoles | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C19H15Br
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | KBr | [K+].[Br-]
solvent | water | O | H2O
product | 3-triphenylmethoxy-1-octyne | C1(=CC=CC=C1)C(OC(C#C)CCCCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28O
